US08293897B2
To a mixture of (S)-1-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-pyrrolidin-2-one (0.6 g, 2.82 mmol) in 20 mL of THF was added Ti(Oi-Pr)4 (2.56 mL, 8.45 mmol, d=0.937 g/L, Aldrich) via a syringe under nitrogen at rt. After stirring at rt for 30 min, EtMgBr (5.63 mL, 16.9 mmol, 3M ether solution, Aldrich) was added via a syringe pump over 3 hrs. The reaction was continued to stir at rt overnight, and then quenched with a mixture of 20 mL of water and 30 mL of ethyl acetate. After stirring for 20 min, the mixture was filtered through a celite pad. The filtrate was extracted with ethyl acetate (30 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (50:1(v/v) CH2Cl2/CH3OH) to afford (5S)-4-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-azaspiro[2.4]heptane as pale yellow oil (64 mg, 10%).

reactant | (S)-1-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-pyrrolidin-2-one | 2.82 mmol, 0.6 g | CN1C(CC[C@H]1COC1OCCCC1)=O | C11H19NO3
reactant | EtMgBr | 16.9 mmol, 3M, 5.63 mL | CC[Mg+].[Br-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5S)-4-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-4-azaspiro[2.4]heptane | 64 mg, 10% | CN1C2(CC2)CC[C@H]1COC1OCCCC1 | C13H23NO2
